US07737149B2
A 2M solution of methylamine in THF (44 mL, 5 eq, 87.5 mmol) was added to methyl 3-formylbenzoate (2.875 g, 1 eq, 17.5 mmol) in dry THF (65 ml). The reaction mixture was cooled to −50° C. under nitrogen and a 2M solution of trimethylaluminium in toluene (22 ml, 2.5 eq, 43.75 mmol) was added slowly over 15 mins. The reaction mixture was allowed to warm slowly to room temperature and stirred for 18 h. The reaction mixture was quenched with a 20% w/v solution of potassium sodium tartrate in water (50 ml). This was extracted with ethyl acetate (2×100 ml) and washed with water (50 ml), saturated sodium chloride solution (50 ml), dried over MgSO4 and evaporated under reduced pressure to give a gum. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 2.5% methanol in DCM. Pure fractions were combined and evaporated to afford 3-formyl-N-methylbenzamide (1.6502 g, 58%) as an off-white solid.

reactant | methylamine | CN | CH5N
reactant | methyl 3-formylbenzoate | 17.5 mmol, 2.875 g, 1 eq | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | trimethylaluminium | C[Al](C)C
reactant | toluene | 43.75 mmol, 22 ml, 2.5 eq | C1(=CC=CC=C1)C | C7H8
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 87.5 mmol, 44 mL, 5 eq | C1CCOC1 | C4H8O
product | 3-formyl-N-methylbenzamide | 1.6502 g, 58% | C(=O)C=1C=C(C(=O)NC)C=CC1 | C9H9NO2
